US07323475B2
c) [5-(4-Chloro-phenoxy)-1,3-dioxo-1,3-dihydro-isoindol-2-yl]-acetic acid butyl ester
A mixture of 500 mg 4-(4-Chloro-phenoxy)-phthalic acid and glycine n-butyl ester (286 mg) was heated at 250° C. for 5 min. The reaction mixture was purified by chromatography with dichloromethane as eluent to give 436 mg the title compound. 1H NMR (200 MHz, DMSO) δ 7.48 (d, J=8.6 Hz, 1H), 7.59 (d, J=9.0 Hz, 2H), 7.46 (m, 2H), 7.29 (d, J=9.0 Hz, 2H), 4.46 (s, 2H), 4.16 (t, J=6.2 Hz, 2H), 1.61 (m, 2H), 1.38 (m, 2H), 0.92 (t, J=7.0 Hz, 3H).

reactant | 4-(4-Chloro-phenoxy)-phthalic acid | 500 mg | ClC1=CC=C(OC=2C=C(C(C(=O)O)=CC2)C(=O)O)C=C1 | C14H9ClO5
reactant | glycine n-butyl ester | 286 mg | C(CCC)OC(CN)=O | C6H13NO2
product | [5-(4-Chloro-phenoxy)-1,3-dioxo-1,3-dihydro-isoindol-2-yl]-acetic acid butyl ester | 436 mg | C(CCC)OC(CN1C(C2=CC=C(C=C2C1=O)OC1=CC=C(C=C1)Cl)=O)=O | C20H18ClNO5
